US07595327B2
According to the procedure of Example 10, Step 1, the reaction of 141 mg (0.85 mmol) of (+)-(1S,2R)-2-amino-1-cyclopentane-carboxylic acid hydrochloride with 400 mg (1.04 mmol) of 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride provided 327.9 mg of (1S,2R)-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid in 86% yield. MS: 441.1 (M+H)+

reactant | (+)-(1S,2R)-2-amino-1-cyclopentane-carboxylic acid hydrochloride | 0.85 mmol, 141 mg | Cl.N[C@H]1[C@H](CCC1)C(=O)O
reactant | 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride | 1.04 mmol, 400 mg | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl
product | (1S,2R)-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | 327.9 mg, 86% yield | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@H](CCC1)C(=O)O | C23H24N2O5S
